US05629325
2a. 5-(1-Naphthalenyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine (272 mg, 1.00 mmol) in benzene (2.0 mL) were added aqueous sodium carbonate (2.0M, 1.0 mL), tetrakis(triphenylphosphine)palladium(0) (35 mg, 0.03 mmol) and 1-naphthaleneboronic acid (189 mg, 1.10 mmol). The reaction mixture was refluxed overnight, then cooled to room temperature. Water (2 mL) was added, and solid sodium bicarbonate was added until the aqueous layer was saturated. The mixture was extracted with EtOAc, which was dried over MgSO4, filtered and concentrated. The residue was chromatographed on a silica gel column, eluting with NH4OH/MeOH/EtOAc 0:1:9 and 1:10:90 to afford a light yellowish oil (196 mg, 62%). MS (CI/NH3) m/z 319 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.71-1.92 (m, 3H), 2.00-2.10 (m, 1H), 2.27-2.38 (m, 1H), 2.51 (s, 3H), 2.66-2.75 (m, 1H), 3.09-3.17 (m, 1H), 3.98-4.14 (m, 2H), 7.34-7.57 (m, 5H), 7.72-7.96 (m, 3H), 8.36-8.43 (m, 1H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine | 1.00 mmol, 272 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | sodium carbonate | 2.0M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-naphthaleneboronic acid | 1.10 mmol, 189 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 2.0 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 2 mL | O | H2O
product | 5-(1-Naphthalenyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 196 mg, 62% | C1(=CC=CC2=CC=CC=C12)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C21H22N2O
